US04588732
Potassium cyanide (11.18 g) and dibenzo-18-crown-6(1.0 g) are added to a solution of 5-[p-(chloromethyl)phenethyl]imidazo[1,5-a]pyridine (9.5 g) in 300 ml of dry acetonitrile under nitrogen. The mixture is refluxed for 24 hours, the solvent is evaporated and the residue partitioned between methylene chloride and water. The organic phase is separated, dried and evaporated to yield 5-[p-(cyanomethyl)phenethyl]imidazo[1,5-a]pyridine.

reactant | Potassium cyanide | 11.18 g | [C-]#N.[K+]
reactant | dibenzo-18-crown-6 | 1.0 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
reactant | 5-[p-(chloromethyl)phenethyl]imidazo[1,5-a]pyridine | 9.5 g | ClCC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C16H15ClN2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5-[p-(cyanomethyl)phenethyl]imidazo[1,5-a]pyridine | C(#N)CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C17H15N3
